US09216973B2
Similarly to example 14.2, the 5′-(3,5-Dichloro-phenyl)-5′-trifluoromethyl-4′,5′-dihydro-[3,3′]biisoxazolyl-5-carboxylic acid tert-butyl ester (393 mg) was deprotected with trifluoroacetic acid to give the 5′-(3,5-Dichloro-phenyl)-5′-trifluoromethyl-4′,5′-dihydro-[3,3′]biisoxazolyl-5-carboxylic acid (331 mg) as a white solid. 1H-NMR (CDCl3, 400 MHz): 7.65 (bs, 1H) 7.46 (m, 2H), 7.44-7.42 (m, 2H), 4.17 (d, 1H), 3.81 (d, 1H).

reactant | 5′-(3,5-Dichloro-phenyl)-5′-trifluoromethyl-4′,5′-dihydro-[3,3′]biisoxazolyl-5-carboxylic acid tert-butyl ester | 393 mg | C(C)(C)(C)OC(=O)C1=CC(=NO1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C18H15Cl2F3N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5′-(3,5-Dichloro-phenyl)-5′-trifluoromethyl-4′,5′-dihydro-[3,3′]biisoxazolyl-5-carboxylic acid | 331 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=NOC(=C1)C(=O)O)C(F)(F)F | C14H7Cl2F3N2O4
